US06924400B2
(f) 5-Ethoxymethoxy-2-methylphenylboronic acid
1.4 g (59 mmol) of magnesium turnings are placed in tetrahydrofuran in a round-bottomed flask and under a stream of nitrogen. 13.2 g (54 mmol) of 2-bromo-4-ethoxymethoxy-1-methylbenzene diluted in a small amount of THF are added slowly. The medium is refluxed for 20 minutes. It is then added via a cannula to 15 ml (65 mmol) of triisopropyl borate. The mixture sets to a solid and is then poured into 1N hydrochloric acid solution and extracted with ether. The organic phase is dried over magnesium sulfate, filtered and then evaporated. 9.8 g (87%) of the expected product are obtained in the form of a brown oil.

reactant | magnesium | 59 mmol, 1.4 g | [Mg] | Mg
reactant | 2-bromo-4-ethoxymethoxy-1-methylbenzene | 54 mmol, 13.2 g | BrC1=C(C=CC(=C1)OCOCC)C | C10H13BrO2
reactant | triisopropyl borate | 65 mmol, 15 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 5-Ethoxymethoxy-2-methylphenylboronic acid | 9.8 g, 87% | C(C)OCOC=1C=CC(=C(C1)B(O)O)C | C10H15BO4
